US09422331B2
To a 0° C. solution of (3S,4S)-5-acetyl-3-amino-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride (162 mg, 361 μmol) in DMF (1.2 ml) was added Boc-N-methyl-L-alanine (80.7 mg, 397 μmol), N,N-diisopropylethylamine (250 μl, 1.44 mmol), and HBTU (151 mg, 397 μmol). The reaction was stirred at rt for 30 min, then diluted with H2O and the solids were collected by vacuum filtration, taken up in EtOAc, washed with H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (189 mg, 88%) as a white solid. MS m/z 620 (MNa)+.

reactant | (3S,4S)-5-acetyl-3-amino-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride | 361 μmol, 162 mg | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)N)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N
reactant | Boc-N-methyl-L-alanine | 397 μmol, 80.7 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | N,N-diisopropylethylamine | 1.44 mmol, 250 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 397 μmol, 151 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 189 mg, 88% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N | C34H39N5O5
